US06953787B2
8-Chloro-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-chloro7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.399 g, 1.24 mmol) in methanol (20 mL) was treated with 15% aqueous NaOH (20 mL), and stirred overnight at 20 C. The product mixture was diluted with water (100 mL), extracted twice with EtOAc (100 mL), the combined organic phases were washed with brine (100 mL), dried with Na2SO4 and concentrated to give 0.306 g of a yellow solid. 1H NMR (400 MHz, CDCl3) d 7.05 (s, 1 H), 6.59 (s, 1 H), 3.80 (s, 3 H), 3.0−2.8 (m, 6 H), 2.62 (m, 1 H), 2.16 (bs, 1 H), 1.24 (d, J=7 Hz, 3 H). MS calculated for C12H16ClNO+H: 226, observed: 226.

reactant | N-trifluoroacetyl-8-chloro7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.24 mmol, 0.399 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OC)Cl)(F)F | C14H15ClF3NO2
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 8-Chloro-7-methoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.306 g | ClC=1C(=CC2=C(C(CNCC2)C)C1)OC | C12H16ClNO
